US08912336B2
To a stirred solution of 5-bromo-2-(pyridin-2-yl)-1H-benzo[d]imidazole (0.487 g, 1.77 mmol) triethylamine (0.50 mL, 3.55 mmol) and 4-dimethylaminopyridine (0.022 g, 0.177 mmol) in THF (12 mL) was added di-tert-butyl dicarbonate (0.775 g, 3.55 mmol) and the reaction mixture was stirred at room temperature for 15 h. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with 1N HCl (30 mL), saturated NaHCO3 (2×30 mL), dried (MgSO4), filtered and concentrated under vacuum to give the crude product (0.693 g). The residue was purified by column chromatography eluting with EtOAc:hexanes 0 to 50% to give the two isomers (tert-butyl 5-bromo-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate and tert-butyl 5-bromo-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate:

reactant | 5-bromo-2-(pyridin-2-yl)-1H-benzo[d]imidazole | 1.77 mmol, 0.50 mL, 0.487 g | BrC1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1 | C12H8BrN3
reactant | di-tert-butyl dicarbonate | 3.55 mmol, 0.775 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.177 mmol, 0.022 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-bromo-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate | BrC1=CC2=C(N(C(=N2)C2=NC=CC=C2)C(=O)OC(C)(C)C)C=C1 | C17H16BrN3O2
